US09101133B2
5-(2,6-Diethyl-4-methylphenyl)-4,6-dioxooctahydropentalene-2-carbaldehyde
20 mg of palladium on activated carbon (10%) are added to 1.10 g (2.72 mmol) of 6-(benzyloxy)-5-(2,6-diethyl-4-methylphenyl)-4-oxo-1,2,3,3a,4,6a-hexahydropentalene-2-carbaldehyde in 20 ml of methanol, and the mixture is hydrogenated (15 bar, room temperature) for 20 h. The filtration and concentration on a rotary evaporator give 0.82 g (97%) of the title compound (I-a-3, isomer ratio according to 1H-NMR 4:1).

reactant | 6-(benzyloxy)-5-(2,6-diethyl-4-methylphenyl)-4-oxo-1,2,3,3a,4,6a-hexahydropentalene-2-carbaldehyde | 2.72 mmol, 1.10 g | C(C1=CC=CC=C1)OC1=C(C(C2CC(CC12)C=O)=O)C1=C(C=C(C=C1CC)C)CC | C27H30O3
catalyst | palladium on activated carbon | 20 mg | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 5-(2,6-Diethyl-4-methylphenyl)-4,6-dioxooctahydropentalene-2-carbaldehyde | 0.82 g, 97% | C(C)C1=C(C(=CC(=C1)C)CC)C1C(C2CC(CC2C1=O)C=O)=O | C20H24O3
